US07662830B2
2. 4-[6-(4-Fluoro-phenyl)-2-(2-(R)-methyl-pyrrolidin-1-yl)-pyrimidin-4-yl]-3-(R)-methyl-piperazine-1-carboxylic acid tert-butyl ester
Heat a mixture of 4-[2-chloro-6-(4-fluoro-phenyl)-pyrimidin-4-yl]-3-(R)-methyl-piperazine-1-carboxylic acid tert-butyl ester (5.0 g, 12.3 mmol), 2-(R)-methyl-pyrrolidine hydrobromide (Nijhuis et. al. (1989) J. Org. Chem. 54:216-220) (3.0 g, 16.0 mmol), and K2CO3 (5.2 g, 37.8 mmol) in DMA at 120° C. for 16 h. Dilute with water, extract with EtOAc, and wash with brine. Dry the organic layer (Na2SO4) and concentrate under reduced pressure. Purify the residue by flash column eluting with EtOAc-Hexanes (1:4) to afford the title compound as a white solid.

reactant | 4-[2-chloro-6-(4-fluoro-phenyl)-pyrimidin-4-yl]-3-(R)-methyl-piperazine-1-carboxylic acid tert-butyl ester | 12.3 mmol, 5.0 g | C(C)(C)(C)OC(=O)N1C[C@H](N(CC1)C1=NC(=NC(=C1)C1=CC=C(C=C1)F)Cl)C | C20H24ClFN4O2
reactant | 2-(R)-methyl-pyrrolidine hydrobromide | 16.0 mmol, 3.0 g | Br.C[C@H]1NCCC1
reactant | K2CO3 | 37.8 mmol, 5.2 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMA | CC(=O)N(C)C | C4H9NO
solvent | water | O | H2O
product | 4-[6-(4-Fluoro-phenyl)-2-(2-(R)-methyl-pyrrolidin-1-yl)-pyrimidin-4-yl]-3-(R)-methyl-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](N(CC1)C1=NC(=NC(=C1)C1=CC=C(C=C1)F)N1[C@@H](CCC1)C)C | C25H34FN5O2
